US07365095B2
Treatment of 2-bromo-4-chlorotoluene (20 mL, 0.15 mol) with 2-fluoro-6-methoxybenzene boronic acid (10.0 g, 58.8 mmol) in DME-water (5:1, 300 mL) according to the procedure described for Example 69, Step 1 provided 21.0 g of 4-chloro-2′-fluoro-6′-methoxy-2-methylbiphenyl as a colorless oil.

reactant | 2-bromo-4-chlorotoluene | 0.15 mol, 20 mL | BrC1=C(C=CC(=C1)Cl)C | C7H6BrCl
reactant | 2-fluoro-6-methoxybenzene boronic acid | 58.8 mmol, 10.0 g | FC1=C(C(=CC=C1)OC)B(O)O | C7H8BFO3
reactant | DME water | 300 mL | COCCOC.O
product | 4-chloro-2′-fluoro-6′-methoxy-2-methylbiphenyl | 21.0 g | ClC1=CC(=C(C=C1)C1=C(C=CC=C1OC)F)C | C14H12ClFO
